US06127357
3-[4-(2-Methoxyphenyl)piperazin-1-yl]propionitrile
A solution of acrylonitrile (1.06 g, 20 mmol) in ethanol (50 ml) was added to a stirred solution of 2-methoxyphenylpiperazine (3.84 g, 20 mmol) in ethanol (100 ml). After 18 h, the solvent was evaporated in vacuo to give the product (4.5 g) as a white solid.

reactant | acrylonitrile | 20 mmol, 1.06 g | C(C=C)#N | C3H3N
reactant | 2-methoxyphenylpiperazine | 20 mmol, 3.84 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 3-[4-(2-Methoxyphenyl)piperazin-1-yl]propionitrile | 4.5 g | COC1=C(C=CC=C1)N1CCN(CC1)CCC#N | C14H19N3O
